US09303201B2
Hexadecylamine (3 g, 12.4 mmol) was dissolved in 1-butanol (10 ml) and 37% hydrochloric acid (1.23 g, 12.4 mmol) added. The solution was warmed to 95° C. and cyanamide (0.522 g, 12.4 mmol) dissolved in 1-butanol (20 ml) added dropwise with stirring over 10 minutes. The solution was stirred at 95° C. for a further 2 hours. Solvent was removed and the crude product crystallised from ethyl acetate to give a white solid of N-hexadecylguanidinium chloride.

reactant | Hexadecylamine | 12.4 mmol, 3 g | C(CCCCCCCCCCCCCCC)N | C16H35N
reactant | hydrochloric acid | 12.4 mmol, 1.23 g | Cl | ClH
reactant | cyanamide | 12.4 mmol, 0.522 g | N#CN | CH2N2
solvent | 1-butanol | 10 ml | C(CCC)O | C4H10O
solvent | 1-butanol | 20 ml | C(CCC)O | C4H10O
product | N-hexadecylguanidinium chloride | [Cl-].C(CCCCCCCCCCCCCCC)NC(=[NH2+])N | InChI=1S/C17H37N3.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-20-17(18)19;/h2-16H2,1H3,(H4,18,19,20);1H
